US04268509
A solution of 7-[2-methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[1-{3-(N-t-butoxycarbonylamino)propyl}-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (2.22 g) in formic acid (22 ml) was stirred for 2.5 hours at ambient temperature. The reaction mixture was post-treated in a conventional manner to give 7-[2-methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[1-(3-aminopropyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (0.875 g), mp. 185° to 190° C. (dec.).

reactant | 7-[2-methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[1-{3-(N-t-butoxycarbonylamino)propyl}-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 2.22 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCCNC(=O)OC(C)(C)C)C(=O)O)C1=O)C1=NSC(=N1)N | C22H29N11O7S3
solvent | formic acid | 22 ml | C(=O)O | CH2O2
product | 7-[2-methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[1-(3-aminopropyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 0.875 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCCN)C(=O)O)C1=O)C1=NSC(=N1)N | C17H21N11O5S3
